US08648200B2
2-Bromo-1-[2-methyl-4-(trifluoromethyl)phenyl]propan-1-one
Add 1-[2-methyl-4-(trifluoromethyl)phenyl]propan-1-one (0.805 g, 3.723 mmol), N-bromosuccinimide (0.662 g, 3.723 mmol), SCX-2® (1 mmol/g; 0.298 g, 0.298 mmol), and Et2O (11 mL) to a screw cap vial equipped with a stir bar. Stir the reaction at room temperature for 2 hours. Add N-bromosuccinimide (0.663 g, 3.723 mmol) and continue stirring at room temperature for 2 hours. Add more N-bromosuccinimide (0.663 g, 3.723 mmol), and continue stirring at room temperature for an additional 2 hours. Filter the reaction, and wash the solids with ample Et2O. Collect the filtrate, and concentrate the filtrate under reduced pressure. Place the resulting mixture in a freezer overnight. Purify the resulting material by flash chromatography (120 RediSep® silica gel column) eluting with a gradient of 0-30% DCM/pentane to give the title compound as a colorless oil (0.820 g, 75% yield). 1H NMR (399.80 MHz, d6-DMSO) δ 7.95 (d, J=8.0 Hz, 1H), 7.69-7.65 (m, 2H), 5.64 (q, J=6.5 Hz, 1H), 2.39 (s, 3H), 1.74 (d, J=6.5 Hz, 3H).

reactant | 1-[2-methyl-4-(trifluoromethyl)phenyl]propan-1-one | 3.723 mmol, 0.805 g | CC1=C(C=CC(=C1)C(F)(F)F)C(CC)=O | C11H11F3O
reactant | N-bromosuccinimide | 3.723 mmol, 0.662 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 3.723 mmol, 0.663 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 3.723 mmol, 0.663 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | Et2O | 11 mL | CCOCC | C4H10O
product | 2-Bromo-1-[2-methyl-4-(trifluoromethyl)phenyl]propan-1-one | 0.820 g, 75% yield | BrC(C(=O)C1=C(C=C(C=C1)C(F)(F)F)C)C | C11H10BrF3O
